US05166204
In 10 ml of acetic acid was dissolved 31 mg of N-(2-dimethylaminoethyl)-6-benzyloxy-1-ethoxycarbazole-3,4-dicarboximide. Thereto was added 30 mg of 5% palladium-carbon. The mixture was subjected to catalytic reduction in a hydrogen atmosphere at room temperature at atmospheric pressure. The resulting insoluble material was removed by filtration. The filtrate was subjected to distillation under reduced pressure to remove the solvent. The residue was mixed with 50 ml of ethyl acetate and 50 ml of an aqueous saturated sodium hydrogencarbonate solution. The organic layer was separated, washed with an aqueous saturated sodium chloride solution, and dried over anhydrous potassium carbonate. The solvent was removed by distillation under reduced pressure. The residue was recrystallized from ethanol to obtain 20 mg (yield: 80%) of N-(2-dimethylaminoethyl)-1-ethoxy-6-hydroxycarbazole-3,4-dicarboximide as orange crystals.

reactant | N-(2-dimethylaminoethyl)-6-benzyloxy-1-ethoxycarbazole-3,4-dicarboximide | 31 mg | CN(CCN1C(=O)C=2C=C(C=3NC4=CC=C(C=C4C3C2C1=O)OCC1=CC=CC=C1)OCC)C | C27H27N3O4
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | 30 mg | [C].[Pd]
product | N-(2-dimethylaminoethyl)-1-ethoxy-6-hydroxycarbazole-3,4-dicarboximide | 20 mg, yield: 80% | CN(CCN1C(=O)C=2C=C(C=3NC4=CC=C(C=C4C3C2C1=O)O)OCC)C | C20H21N3O4
